US07157487B2
Phosphoryl chloride (5.15 ml, 55.3 mmol) was added dropwise to DMF (70 ml) under stirring at 0° C. After the reaction mixture was stirred at 0° C. for 10 minutes, a solution of 1-methyl-1H-pyrrolo(2,3-b)pyridine (4.87 g, 36.8 mmol) in DMF (5 ml) was added dropwise at the same temperature. After completion of the dropwise addition, the reaction mixture was stirred at 0° C. for 4 hours and at 60° C. for 3.5 hours. The reaction mixture was poured in ice water—a saturated aqueous solution of sodium bicarbonate to neutralize the mixture therewith, followed by extraction with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from ethyl acetate eluate fractions, 1-methyl-1H-pyrrolo(2,3-b)pyridine-3-carbaldehyde (4.87 g, 83%) was obtained as a yellow solid.

reactant | Phosphoryl chloride | 55.3 mmol, 5.15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-1H-pyrrolo(2,3-b)pyridine | 36.8 mmol, 4.87 g | CN1C=CC=2C1=NC=CC2 | C8H8N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 1-methyl-1H-pyrrolo(2,3-b)pyridine-3-carbaldehyde | 4.87 g, 83% | CN1C=C(C=2C1=NC=CC2)C=O | C9H8N2O
